US06586475B1
Methyl 6-(4-biphenylylmethoxy)nicotinate
The mixture of methyl 6-hydroxynicotinate (6 g), 4-biphenylylmethyl bromide (7.7 g), silver carbonate (4.8 g), and toluene (60 ml) was stirred at 50° C. for 12 hr. The reaction mixture was further stirred at 100° C. for 6 hr and filtrated.

reactant | methyl 6-hydroxynicotinate | 6 g | OC1=NC=C(C(=O)OC)C=C1 | C7H7NO3
reactant | 4-biphenylylmethyl bromide | 7.7 g | C1(=CC=C(C=C1)CBr)C1=CC=CC=C1 | C13H11Br
catalyst | silver carbonate | 4.8 g | C([O-])([O-])=O.[Ag+2]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 6-(4-biphenylylmethoxy)nicotinate | C1(=CC=C(C=C1)COC1=NC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C20H17NO3
